US09029536B2
C) 1-(3-Bromopropyl)-3-[4-(methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine
To a solution of 3-[4-(methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine (650 mg) was added NaH (60% in oil, 153 mg) at 0° C. After stirring at room temperature for 1 h, the mixture was added dropwise to 1,3-dibromopropane (0.778 mL). The mixture was stirred at room temperature for 2 h. The mixture was added to water and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (486 mg).

reactant | 3-[4-(methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine | 650 mg | COCOC1=CC=C(C=C1)C1=CNC=2C1=NC=CC2 | C15H14N2O2
reactant | NaH | 153 mg | [H-].[Na+]
reactant | 1,3-dibromopropane | 0.778 mL | BrCCCBr | C3H6Br2
solvent | water | O | H2O
product | 1-(3-Bromopropyl)-3-[4-(methoxymethoxy)phenyl]-1H-pyrrolo[3,2-b]pyridine | 486 mg | BrCCCN1C=C(C2=NC=CC=C21)C2=CC=C(C=C2)OCOC | C18H19BrN2O2
